US06939874B2
N2-(3-Ethynylphenyl)-N4-(3-quinolinyl)-2,4-pyrimidinediamine
A mixture of (2-chloro-pyrimidin-4-yl)-quinolin-3-yl-amine (70 mg 0.272 mmol) and 3-ethynylaniline (33 mg, 0.282 mmol) was suspended in a sealed tube with 0.3 mL of DMSO. The resulting mixture was heated at 100° C. for 2 h, cooled to RT, diluted with CH2Cl2. The precipitate was collected by suction filtration then dried under vacuum to give the desired product as an off-white solid. M+H—338; Calc'd for C21H15N5: 337.13.

reactant | (2-chloro-pyrimidin-4-yl)-quinolin-3-yl-amine | 0.272 mmol, 70 mg | ClC1=NC=CC(=N1)NC=1C=NC2=CC=CC=C2C1 | C13H9ClN4
reactant | 3-ethynylaniline | 0.282 mmol, 33 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | DMSO | 0.3 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N2-(3-Ethynylphenyl)-N4-(3-quinolinyl)-2,4-pyrimidinediamine | C(#C)C=1C=C(C=CC1)NC1=NC=CC(=N1)NC=1C=NC2=CC=CC=C2C1 | C21H15N5
